US07410986B2
To a cold (0° C.) solution of N-{3-[2-amino-6-(2-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-cyano-4-pyridinyl]phenyl}-5-oxotetrahydro-2-furancarboxamide (0.400 g, 0.757 mmol) in THF (5 mL) was added dropwise a solution n-tetrabutylammonium fluoride in THF (1M, 2 mL). After being stirred for 30 minutes, the mixture was quenched with water (5 mL). The resulting precipitate was collected by filtration, washed with water and ethanol, and dried under reduced pressure to give N-{3-[2-amino-3-cyano-6-(2-hydroxyphenyl)-4-pyridinyl]phenyl}-5-oxotetrahydro-2-furancarboxamide as a white solid (0.293 g, yield 93%).

reactant | N-{3-[2-amino-6-(2-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-cyano-4-pyridinyl]phenyl}-5-oxotetrahydro-2-furancarboxamide | 0.757 mmol, 0.400 g | NC1=NC(=CC(=C1C#N)C=1C=C(C=CC1)NC(=O)C1OC(CC1)=O)C1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C | C29H32N4O4Si
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 2 mL | C1CCOC1 | C4H8O
product | N-{3-[2-amino-3-cyano-6-(2-hydroxyphenyl)-4-pyridinyl]phenyl}-5-oxotetrahydro-2-furancarboxamide | 0.293 g, yield 93% | NC1=NC(=CC(=C1C#N)C=1C=C(C=CC1)NC(=O)C1OC(CC1)=O)C1=C(C=CC=C1)O | C23H18N4O4
